US05614514
Myristoyl chloride was synthesized by refluxing myristic acid (7.0 g) and thionyl chloride (9 ml) in trichloroethylene (100 ml) for 3 h. The solvent was then evaporated.

reactant | myristic acid | 7.0 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | thionyl chloride | 9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | trichloroethylene | 100 ml | ClC=C(Cl)Cl | C2HCl3
product | Myristoyl chloride | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
